US07592457B2
4-chloro-2-[2-(4-nitro-phenyl)-propionylamino]-benzoic acid methyl ester
The objective compound was prepared by the same procedure for the intermediate 1, using a 2-(4-nitro-phenyl)-propionic acid (1.95 g, 10.0 mmol), SOCl2 (3.6 mL, 33.4 mmol), and 2-amino-4-chloro-benzoic acid methyl ester (1.24 g, 6.67 mmol). After normal workup, the pure objective compound (2.29 g, 95%) was obtained as slightly yellow solid by a flash column chromatography (n-hexane:EtOAc=8:1): 1H NMR (200 MHz, CDCl3) δ 1.65 (d, J=7.3 Hz, 3H, CH3), 3.83-3.93 (m, 4H, CO2CH3 & CH), 7.04 (dd, J=8.5, 2.0 Hz, 1H, ArH), 7.58 (d, J=8.9 Hz, 2H, ArH), 7.93 (d, J=8.5 Hz, 1H, ArH), 8.21 (d, J=8.9 Hz, 2H, ArH), 8.79 (d, J=2.0 Hz, 1H, ArH), 11.09 (br s, 1H, NH).

reactant | 2-(4-nitro-phenyl)-propionic acid | 10.0 mmol, 1.95 g | [N+](=O)([O-])C1=CC=C(C=C1)C(C(=O)O)C | C9H9NO4
reactant | SOCl2 | 33.4 mmol, 3.6 mL | O=S(Cl)Cl | Cl2OS
reactant | 2-amino-4-chloro-benzoic acid methyl ester | 6.67 mmol, 1.24 g | COC(C1=C(C=C(C=C1)Cl)N)=O | C8H8ClNO2
reactant | n-hexane | CCCCCC | C6H14
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-chloro-2-[2-(4-nitro-phenyl)-propionylamino]-benzoic acid methyl ester | 2.29 g, 95% | COC(C1=C(C=C(C=C1)Cl)NC(C(C)C1=CC=C(C=C1)[N+](=O)[O-])=O)=O | C17H15ClN2O5
